* source MARX_SUPPRESSION5
X_14N511K         N38887 N38975 MOVBASEKEL PARAMS:  I1=1m V1=510 I2=5 V2=842
+  CN=10p TOL=10 TC=5 RON=10m
L_L         N38819 N38825  0.001n  
R_R4         0 N38993  0.01 TC=0,0 
R_R1         N38941 N38909  2 TC=0,0 
C_C         0 N38635  0.012u  TC=0,0 
C_Ceq         0 N38825  210.3p IC=-1.23kV TC=0,0 
R_R         N38645 N38975  60 TC=0,0 
R_R3         0 N38887  0.01 TC=0,0 
R_R2         0 N39013  0.01 TC=0,0 
R_Rs         0 N38645  500k TC=0,0 
X_U1         N38819 N38635 Sw_tClose PARAMS: tClose=0 ttran=0.2u Rclosed=0.01
+  Ropen=1Meg
X_U2         N38635 N38645 Sw_tClose PARAMS: tClose=10.9n ttran=0.075u
+  Rclosed=0.000001 Ropen=1Meg
X_14N511K_2         N38993 N39013 MOVBASEKEL PARAMS:  I1=1m V1=510 I2=5 V2=842
+  CN=10p TOL=10 TC=5 RON=10m
C_3xMPEAR0_3xMPEAR0_47K100         N38887 N38909  1.41u  TC=0,0 
C_1x2E105J         N38993 N38941  1u  TC=0,0 
L_WE6R1         N38975 N38909  6.1u  
L_WE6R1_2         N39013 N38941  6.1u  
