* source MARX_SUPPRESSOR8
R_R1         N45429 N45417  2.2 TC=0,0 
R_R         N45693 N45463  60 TC=0,0 
R_R4         0 N45475  0.01 TC=0,0 
C_C2         N45475 N45429  183.33p  TC=0,0 
L_L         N45867 N45873  0.001n  
C_C         0 N45681  0.012u  TC=0,0 
C_C1         N45411 N45417  183.33p  TC=0,0 
X_U1         N45867 N45681 Sw_tClose PARAMS: tClose=0 ttran=0.2u Rclosed=0.01
+  Ropen=1Meg
X_U2         N45681 N45693 Sw_tClose PARAMS: tClose=10.9n ttran=0.075u
+  Rclosed=0.000001 Ropen=1Meg
R_Rs         0 N45693  500k TC=0,0 
C_Ceq         0 N45873  210.3p IC=-125kv TC=0,0 
L_L1         N45463 N45417  3m  
L_L2         N45489 N45429  3m  
X_1         N45411 N45463 MOVBASEKEL PARAMS:  I1=1m V1=430 I2=50 V2=710 CN=10p
+  TOL=10 TC=5 RON=10m
X_2         N45475 N45489 MOVBASEKEL PARAMS:  I1=1m V1=750 I2=50 V2=1240 CN=10p
+  TOL=10 TC=5 RON=10m
R_R2         0 N45489  0.01 TC=0,0 
R_R3         0 N45411  0.01 TC=0,0 
