* source MARX_SURGESUPPRESSION3
X_U1         N24766 N24176 Sw_tClose PARAMS: tClose=0 ttran=0.2u Rclosed=0.01
+  Ropen=1Meg
X_U2         N24176 N24186 Sw_tClose PARAMS: tClose=10.9n ttran=0.075u
+  Rclosed=0.000001 Ropen=1Meg
C_Ceq         0 N24772  210.3p IC=-300kV TC=0,0 
R_Rl         N24470 N25086  2 TC=0,0 
R_Rs         0 N24186  500k TC=0,0 
L_L         N24766 N24772  0.001n  
L_L3         N27481 N24608  500u  
X_820543011_1         N24378 N24584 MOVBASEKEL PARAMS:  I1=50 V1=775 I2=1m
+  V2=420 CN=10p TOL=10 TC=5 RON=10m
R_R         N24186 N24584  60 TC=0,0 
C_C         0 N24176  0.012u  TC=0,0 
L_L1         N25525 N24584  500u  
X_820554001         N24378 N25525 MOVBASEKEL PARAMS:  I1=5 V1=355 I2=0.1m
+  V2=200 CN=10p TOL=10 TC=5 RON=10m
C_C4         N24378 N25086  0.001u  TC=0,0 
L_L4         N25086 N25525  500u  
R_R1         0 N24378  0.001 TC=0,0 
R_R2         N24512 0  0.001 TC=0,0 
R_R3         N24608 0  0.001 TC=0,0 
R_R4         N24470 N27387  0.001 TC=0,0 
L_L7         N27387 N27481  500u  
C_C7         N24512 N27387  0.001u  TC=0,0 
X_820543011_2         N24512 N24608 MOVBASEKEL PARAMS:  I1=50 V1=775 I2=1m
+  V2=420 CN=10p TOL=10 TC=5 RON=10m
X_820554002         N24512 N27481 MOVBASEKEL PARAMS:  I1=5 V1=355 I2=0.1m
+  V2=200 CN=10p TOL=10 TC=5 RON=10m
