* source SG_MODEL    
V2 N002 0 1
V3 N003 2
Rcont1 N001 control 1
C1 control 0 10p
Bcharge1 BC 0 V=if(V(1)>=Vbreakdown,1,0)
A1 N002 0 BC 0 0 0 N001 0 DFLOP
SW1 N003 1 control 0 Sgap
.IC V(1)=0 V(control)=0
.model Sgap SW(Ron=1u Roff=100Meg Vt=0.5 Vh=0)
.param Vbreakdown=299.8k
.tran 0 5000ns 0
.backanno
.end

